US07291635B2
The title C compound, ({4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzylcarbamoyl}-methyl)-carbamic acid t-butyl ester (80 mg, 0.14 mmol) is stirred in equal volumes of CH2Cl2 and TFA (4 mL) for 16 h. The volatiles are evaporated and the residue is stirred in equal volumes of MeCN/water (5 mL) for 30 min. The mixture is filtered through a 0.2μ Acrodisc and the solvents are evaporated. The solid is washed with Et2O and dried to afford 2-amino-N-[4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzyl]-acetamide as a white solid: [M−1]−=311.

reactant | ({4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzylcarbamoyl}-methyl)-carbamic acid t-butyl ester | 0.14 mmol, 80 mg | C(C)(C)(C)OC(NCC(NCC1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O)=O | C26H34N4O8S
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzyl]-acetamide | NCC(=O)NCC1=CC=C(C=C1)CN1S(NC(C1)=O)(=O)=O | C12H16N4O4S
